US08871756B2
2-({4-[(3-Aminopropyl)amino]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl}oxy)ethanol
A mixture of 2-{[4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinolin-6-yl]oxy}ethanol (250 mg, 0.6 mmol) and propane-1,3-diamine (88.8 mg, 1.2 mmol) was heated for 1.5 hours at 150° C. under microwave irradiation. The reacting mixture was purified by preparative HPLC and SPE to afford 98.2 mg of the desired product (yield was 35.8%). MS obsd. (ESI+) [(M+H)+] 457, 1H NMR (400 MHz, CD3OD) δ ppm 8.10-8.02 (d, J=8 Hz, 1 H), 7.88-7.80 (d, J=7.6 Hz, 1 H), 7.77-7.68 (q, J=9.6 Hz, 2 H), 7.60-7.50 (m, 2 H), 7.42-7.38 (m, 1 H), 5.94 (s, 1 H), 5.29 (s, 2 H), 4.55-4.42 (m, 2 H), 4.18-4.10 (t, J=4.4 Hz, 2 H), 3.90-3.85 (t, J=4.4 Hz, 2 H), 3.76-3.68 (t, J=4.4 Hz, 2 H), 3.62-3.55 (t, J=6.8 Hz, 2 H), 3.12-3.05 (t, J=7.6 Hz, 2 H), 2.15-2.00 (m, 2 H).

reactant | 2-{[4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinolin-6-yl]oxy}ethanol | 0.6 mmol, 250 mg | ClC1=CC(=NC2=CC=C(C=C12)OCCO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H19ClN2O4S
reactant | propane-1,3-diamine | 1.2 mmol, 88.8 mg | C(CCN)N | C3H10N2
product | 2-({4-[(3-Aminopropyl)amino]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl}oxy)ethanol | 98.2 mg, yield was 35.8% | NCCCNC1=CC(=NC2=CC=C(C=C12)OCCO)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H28N4O4S
